US04198514
In the same manner as Example 1-(d), 5 g of methyl 4-(3-chlorophenyl)-3-cyanobutyrate was reduced with Raney's nickel as the catalyst to obtain 4-(3-chlorobenzyl)-2-pyrrolidinone.

reactant | methyl 4-(3-chlorophenyl)-3-cyanobutyrate | 5 g | ClC=1C=C(C=CC1)CC(CC(=O)OC)C#N | C12H12ClNO2
catalyst | Raney's nickel | [Ni] | Ni
product | 4-(3-chlorobenzyl)-2-pyrrolidinone | ClC=1C=C(CC2CC(NC2)=O)C=CC1 | C11H12ClNO
